US06982274B2
tert-Butyl 3-bromo-5-nitro-1H-1-indazolecarboxylate
To a solution of 24.0 g of 3-bromo-5-nitro-1H-indazole and 12.2 g of 4-(dimethylamino)pyridine in 50 ml tetrahydrofuran was added dropwise 23 ml of di-tert-butyl dicarbonate at room temperature. After stirring at room temperature for 30 minutes, the mixture was added with water, acidified by adding diluted hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:10), to give 20.5 g of the title compound as colorless needles.

reactant | 3-bromo-5-nitro-1H-indazole | 24.0 g | BrC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H4BrN3O2
reactant | di-tert-butyl dicarbonate | 23 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 12.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-bromo-5-nitro-1H-1-indazolecarboxylate | 20.5 g | BrC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)OC(C)(C)C | C12H12BrN3O4
